US06972295B2
A mixture of 5.92 g (40 mmoles) of 1-phenyl-2-hydroxy-2-methylpropane and 50 mL conc. hydrochloric acid was stirred at ice bath temperature for 1 h and at RT for 3 h. The reaction mixture was then extracted with ether. The organic layer was dried over MgSO4. Solvent removal gave 1-phenyl-2-chloro-2-methylpropane.

reactant | 1-phenyl-2-hydroxy-2-methylpropane | 40 mmoles, 5.92 g | C1(=CC=CC=C1)CC(C)(C)O | C10H14O
reactant | hydrochloric acid | 50 mL | Cl | ClH
product | 1-phenyl-2-chloro-2-methylpropane | C1(=CC=CC=C1)CC(C)(C)Cl | C10H13Cl
